US05773530
To a solution of 3-[2-(2-carboxymethyl-1-cyclohexenyl)-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]pyridine (1.5 g) in a mixture of tetrahydrofuran (20 ml) and dichloromethane (20 ml) was added in turn with 1-hydroxybenzotriazole (563 mg), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide (950 μl) and sarcosine ethyl ester hydrochloride (640 mg) at room temperature. The reaction mixture was stirred for two hours, which was poured into ethyl acetate (300 ml), washed in turn with water (30 ml×2), saturated sodium hydrogen carbonate in water (50 ml) and brine (50 ml×2), and dried over magnesium sulfate. Evaporation of the solvent gave a residue, which was chromatographed on silica gel (200 ml) eluting with ethyl acetate. Fractions containing desired product were collected. Evaporation of the solvent gave a residue, which was recrystallized from a mixture of ethyl acetate and n-hexane to give 3-[2-{2-(N-ethoxycarbonylmethyl-N-methylcarbamoyl)methyl-1-cyclohexenyl}-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]pyridine (1.12 g).

reactant | 3-[2-(2-carboxymethyl-1-cyclohexenyl)-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]pyridine | 1.5 g | C(=O)(O)CC1=C(CCCC1)N1N=C(C=CC1=O)C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2 | C25H22N4O3
reactant | 1-hydroxybenzotriazole | 563 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide | 950 μl | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | sarcosine ethyl ester hydrochloride | 640 mg | Cl.C(C)OC(CNC)=O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
product | 3-[2-{2-(N-ethoxycarbonylmethyl-N-methylcarbamoyl)methyl-1-cyclohexenyl}-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]pyridine | 1.12 g | C(C)OC(=O)CN(C(=O)CC1=C(CCCC1)N1N=C(C=CC1=O)C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2)C | C30H31N5O4
